US05824690
Combine 4-pyridylacetonitrile (19.4 g, 125 mmol), N-benzyl-N,N-bis-(2-chloroethyl)amine hydrochloride (33.6 g, 125 mmol), and hexadecyltributylphosphonium bromide (3 g, 6 mmol) and a 50% aqueous sodium hydroxide solution. Heat to 100° C. After 1 hour, cool the reaction mixture to ambient temperature and repeatedly extract with diethyl ether. Extract the combined organic layers twice with an aqueous 10% hydrochloric acid solution (350 mL). Combine the aqueous layers and neutralize with an aqueous 50% sodium hydroxide solution. Again extract three times with diethyl ether, combine the organic layers, dry over MgSO4, and filter. Add a solution of hydrochloric acid in dioxane (60 mL 4M, 240 mmol) and evaporate in vacuo to give 1-benzyl-4-cyano-4-(pyridin-4-yl)-piperidine hydrochloride.

reactant | 4-pyridylacetonitrile | 125 mmol, 19.4 g | N1=CC=C(C=C1)CC#N | C7H6N2
reactant | N-benzyl-N,N-bis-(2-chloroethyl)amine hydrochloride | 125 mmol, 33.6 g | Cl.C(C1=CC=CC=C1)N(CCCl)CCCl
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 240 mmol, 4M, 60 mL | O1CCOCC1 | C4H8O2
catalyst | hexadecyltributylphosphonium bromide | 6 mmol, 3 g | [Br-].C(CCCCCCCCCCCCCCC)[P+](CCCC)(CCCC)CCCC
product | 1-benzyl-4-cyano-4-(pyridin-4-yl)-piperidine hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=NC=C1)C#N | InChI=1S/C18H19N3.ClH/c19-15-18(17-6-10-20-11-7-17)8-12-21(13-9-18)14-16-4-2-1-3-5-16;/h1-7,10-11H,8-9,12-14H2;1H
